US04970207
To a suspension of a mixture (0.42g)of (3RS)-1,3-dihydro -3-(2-indolylcarbonylamino)-5-phenyl-1-{2-((RS)-2-tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine-2-one and (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl -1-{2-((SR)-2-tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine -2-one in acetone (10 ml) was added 6N-hydrochloric acid (0.4 ml) under stirring at ambient temperature. After the yellow clear solution was stirred for 45 minutes, the additional 6N-hydrochloric acid (0.4 ml) and water (1 ml) were added thereto. The mixture was stirred for 0.5 hour at ambient temperature. Neutralization with an aqueous solution of sodium bicarbonate and removal of acetone gave yellow precipitates, which were collected by filtration, washed with water and dried. The crude product was purified by column chromatography on silica gel with an eluent of a mixture of chloroform and ethyl acetate (5:1) to afford pure (3RS)-1,3-dihydro-1-(2-hydroxyethyl)-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one (0.28 g) as an amorphous. This was triturated in diethyl ether to give light yellow powder.

reactant | (3RS)-1,3-dihydro -3-(2-indolylcarbonylamino)-5-phenyl-1-{2-((RS)-2-tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine-2-one | 0.42g | N1C(=CC2=CC=CC=C12)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCOC2OCCCC2)=O | C31H30N4O4
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | water | 1 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | (3RS)-1,3-dihydro-1-(2-hydroxyethyl)-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 0.28 g | OCCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C26H22N4O3
